*
C1 N003 N002 1µ
C2 N004 N003 2µ
C3 N005 N004 3µ
C4 N006 N005 4µ
C5 N007 N006 5µ
R1 N002 N001 100
C6 N008 N007 1µ
C7 N009 N008 2µ
C8 N010 N009 3µ
C9 N011 N010 4µ
C10 0 N011 5µ
V1 0 N001 SINE(0 10 1k)
.tran 0 1ms 0 1us
.backanno
.end
